US06605617B2
N-(4-Chloro-2-cyanophenyl)-2-(5-morpholin-4-ylbenzimidazol-2-yl)acetamide
LiHMDS (2.5 eq) was added to ethyl 2-[5-(2-morpholin-4-ylethoxy)benzimidazol-2-yl]acetate (1.0 eq) in THF at −78° C. After 1 hour, 2-amino-5-chlorobenzenecarbonitrile (0.82 eq) in THF was added. The reaction was allowed to warm to 23° C. and stirred overnight. The resulting mixture was quenched with NH4Cl (aqueous saturated solution) and extracted with EtOAc. The combined organic layers were washed with H2O and brine, dried over Na2SO4, filtered and concentrated in vacuo to yield a brown solid. The crude material was purified by silica gel chromatography (5:1 EtOAc:hexane) to give the desired product. LC/MS m/z 396.1 (MH+), Rf 1.79 minutes.

reactant | LiHMDS | 2.5 eq | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | ethyl 2-[5-(2-morpholin-4-ylethoxy)benzimidazol-2-yl]acetate | 1.0 eq | N1(CCOCC1)CCOC1=CC2=C(N=C(N2)CC(=O)OCC)C=C1 | C17H23N3O4
reactant | 2-amino-5-chlorobenzenecarbonitrile | 0.82 eq | NC1=C(C=C(C=C1)Cl)C#N | C7H5ClN2
reactant | THF | C1CCOC1 | C4H8O
product | N-(4-Chloro-2-cyanophenyl)-2-(5-morpholin-4-ylbenzimidazol-2-yl)acetamide | ClC1=CC(=C(C=C1)NC(CC=1NC2=C(N1)C=CC(=C2)N2CCOCC2)=O)C#N | C20H18ClN5O2
